US07038059B2
17.7 g (0.100 mol) of cis-4-amino-2-cyclopentene-1-carboxylic acid methyl ester hydrochloride, 22.9 g (0.105 mol) of di-tert-butyl dicarbonate, 5.6 g (0.053 mol) of sodium carbonate and 70 mL of heptane were put into a four-necked flask (300 mL volume) and equipped with a thermometer. While this mixture was stirred, 100 mL of water was added, and then the mixture was stirred for 3 hours at room temperature. The organic layer separated after the stirring was stopped. The solvent was distilled off from the organic layer under reduced pressure to give 23.9 g (0.099 mol) of cis-4-tert-butoxycarbonylamino-2-cyclopentene-1-carboxylic acid methyl ester. The yield was 99%.

reactant | cis-4-amino-2-cyclopentene-1-carboxylic acid methyl ester hydrochloride | 0.100 mol, 17.7 g | Cl.COC(=O)[C@@H]1C=C[C@@H](C1)N
reactant | di-tert-butyl dicarbonate | 0.105 mol, 22.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium carbonate | 0.053 mol, 5.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | heptane | 70 mL | CCCCCCC | C7H16
solvent | water | 100 mL | O | H2O
product | cis-4-tert-butoxycarbonylamino-2-cyclopentene-1-carboxylic acid methyl ester | 0.099 mol, 23.9 g, yield was 99% | COC(=O)[C@@H]1C=C[C@@H](C1)NC(=O)OC(C)(C)C | C12H19NO4
